US04906784
To a mixture formed by adding 0.4 moles of AlCl3 to 0.6 mole of sym-tetrachloroethane are sequentially added, with stirring, 0.46 mole of nitromethane, 0.2 mole of terephthalic acid (reagent grade) and gradually 0.2 mole of phenol. The initial temperature of the resulting mixture is 25° C. and the temperature is raised to about 30° C. after 2 hours, then to about 40° C. after 4 hours, and about 1 hour later or until all HCl evolution is complete, the resulting mixture is allowed to stand overnight at room temperature. The mixture is treated with dilute sulfuric acid and the sym-tetrachloroethane is distilled from the mixture. The recovered solid is redissolved in boiling 10% Na2CO3, filtered, reprecipitated with concentrated HCl, and finally washed with water. About a 50% yield of 4-(4-hydroxybenzoyl) benzoic acid of good purity is obtained.

reactant | AlCl3 | 0.4 moles | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | sym-tetrachloroethane | 0.6 mole | C(C(Cl)Cl)(Cl)Cl | C2H2Cl4
reactant | nitromethane | 0.46 mole | [N+](=O)([O-])C | CH3NO2
reactant | terephthalic acid | 0.2 mole | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | phenol | 0.2 mole | C1(=CC=CC=C1)O | C6H6O
reactant | HCl | Cl | ClH
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 4-(4-hydroxybenzoyl) benzoic acid | 50% yield | OC1=CC=C(C(=O)C2=CC=C(C(=O)O)C=C2)C=C1 | C14H10O4
